US03943124
17β-Cyanomethoxycarbonyl-3α-hydroxy-5α-androstan-11-one
Triethylamine (4.5 mmole) was added to a solution of 3α-hydroxy-5α-androstan-11-one 17β-carboxylic acid (1.025g.) in warm acetone (50 ml.) followed by chloroacetonitrile (6 mmole). After refluxing this mixture for 3 hr. further chloroacetonitrile (6 mmole) was added and refluxing continued for 4 hr. Removal of the solvent afforded a residue which was partitioned between ether and water. The ethereal solution was washed with water, dried (MgSO4) and evaporated, to give a foam (1.187g.) which was purified by preparative t.l.c. to afford the pure title compound; m.p. 142°-146°; [α]D + 74°,.

reactant | Triethylamine | 4.5 mmole | C(C)N(CC)CC | C6H15N
reactant | 3α-hydroxy-5α-androstan-11-one 17β-carboxylic acid | 1.025g | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC([C@@H]3[C@]2(CC1)C)=O)C(=O)O | C20H30O4
reactant | chloroacetonitrile | 6 mmole | ClCC#N | C2H2ClN
reactant | chloroacetonitrile | 6 mmole | ClCC#N | C2H2ClN
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 17β-Cyanomethoxycarbonyl-3α-hydroxy-5α-androstan-11-one | C(#N)COC(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3C[C@@H](CC[C@]3(C)[C@H]1C(C2)=O)O | C22H31NO4
